US09422285B2
3,3,4,4,4-Pentafluorobutyl trifluoromethanesulphonate
198.49 g (703.51 mmol) of trifluoromethanesulphonic anhydride were initially charged under argon. The reaction flask was immersed into an oil bath at 70° C. and heated to internal temperature 56° C. 88.2 ml (738.68 mmol) of 3,3,4,4,4-pentafluorobutanol were added dropwise to the reaction mixture within 35 min and the mixture was stirred at bath temperature 70-73° C. and internal temperature 69° C. for two hours. The reaction mixture was concentrated on a rotary evaporator and the residue was taken up in 1500 ml of dichloromethane. The residue was washed once with 300 ml of cold water, once with 300 ml of cold saturated aqueous sodium hydrogencarbonate solution and once with 300 ml of cold water. The organic phase was dried with magnesium sulphate, filtered and concentrated. This gave 192.86 g (92.6% of theory) of the target compound.

reactant | trifluoromethanesulphonic anhydride | 703.51 mmol, 198.49 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 3,3,4,4,4-pentafluorobutanol | 738.68 mmol, 88.2 ml | FC(CCO)(C(F)(F)F)F | C4H5F5O
product | 3,3,4,4,4-Pentafluorobutyl trifluoromethanesulphonate | FC(S(=O)(=O)OCCC(C(F)(F)F)(F)F)(F)F | C5H4F8O3S
